US04087524
19-Hydroxy-4-androstene-3,17-dione, t-butyldimethylsilylchloride and pyridine are mixed in dry dimethylformamide and heated on a steam bath overnight. The reaction mixture is poured onto water and stirred well for 15 minutes. The resulting solid is filtered and dissolved in methylenechloride, dried over magnesium sulfate and the solvent removed. The residue is crystallized from an acetone-hexane solution to yield 19-t-butyldimethylsiloxy-4-androstene-3,17-dione.

reactant | 19-Hydroxy-4-androstene-3,17-dione | OC[C@]12CCC(C=C1CC[C@H]1[C@@H]3CCC([C@@]3(C)CC[C@H]21)=O)=O | C19H26O3
reactant | t-butyldimethylsilylchloride | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 19-t-butyldimethylsiloxy-4-androstene-3,17-dione | O([Si](C)(C)C(C)(C)C)C[C@]12CCC(C=C1CC[C@H]1[C@@H]3CCC([C@@]3(C)CC[C@H]21)=O)=O | C25H40O3Si
